US06531494B1
Ethyl 4-[4-(benzyloxy)phenyl]-3-methyl-4-oxobutanoate
To a stirred solution of lithium diisopropylamide (Aldrich, 100 mL, 2M solution in THF) in THF (950 mL) at −78° C. was added a suspension of 4-benzyloxypropiophenone (Lancaster, 50 g) in THF (75 mL) over one minute. After 45 minutes, ethyl bromoacetate (Aldrich, 23 mL) was added during one minute. After one hour, the mixture was allowed to warm to 0° C. over 3 hours. The reaction was quenched with saturated NH4Cl (500 mL). The organic phase was separated and concentrated in vacuo. The residue was purified by chromatography over silica gel using 10% ethyl acetate in hexane as eluant to provide the above compound as a colorless liquid.

reactant | lithium diisopropylamide | 2M, 100 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-benzyloxypropiophenone | 50 g | CCC(=O)C1=CC=C(C=C1)OCC2=CC=CC=C2 | C16H16O2
reactant | ethyl bromoacetate | 23 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 950 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | Ethyl 4-[4-(benzyloxy)phenyl]-3-methyl-4-oxobutanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CC(=O)OCC)C)=O | C20H22O4
